US03992394
6-(2-Phenoxyacetamido)-2,2-Dimethyl-3-(5-Tetrazolyl)Penam
A stirred slurry of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam (480 mg.) inwater (10 ml.) is cooled to 0° C., and then the pH is adjusted to 8.0 using 1N sodium hydroxide. To this solution is then added phenoxyacetyl chloride, (0.25 ml.) in portions, with the pH of the solution being maintained between 7 and 8 during the addition, using 0.1N sodium hydroxide. The solution is stirred a further 30 minutes at 0° C. at pH 8. It is then extracted with chloroform, and the extracts are discarded. The aqueous phase is acidified to pH 2 with dilutehydrochloric acid, and then it is further extracted with chloroform. The latter extracts are dried using calcium sulfate and then evaporated in vacuo to give the crude product as a gummy solid. This is purified by dissolving it in chloroform (20 ml.), and adding the resultant solution dropwise to hexane (250 ml.). The precipitate which forms is filtered off,giving 385 mg. of 6-(2-phenoxyacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penamas a white amorphous solid. The infrared spectrum (KBr disc) of the productshows absorption bands at 1785 cm-1 (β-lactam carbonyl), 1670 cm-1 (amide I band) and 1540 cm-1 (amide II band). The NMR spectrum (in DMSO-d6) shows absorption bands at 7.50- 6.70 ppm (multiplet, aromatic hydrogens), 5.70 ppm (multiplet, C-5 and C-6hydrogens), 5.35 ppm (singlet, C-3 methyl hydrogens), 4.66 ppm (s, 2, φ-OCH2) and 1.66 + 1.16 (s, 3H, each, C-2 methyls)ppm.

reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | 480 mg | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
product | 6-(2-Phenoxyacetamido)-2,2-Dimethyl-3-(5-Tetrazolyl)Penam | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C16H18N6O3S
